US08222263B2
A mixture of 2-chloro-4-phenylpyrido[2,3-d]pyrimidine (233 mg, 0.965 mmol), 4-aminobenzoic acid (133 mg, 0.965 mmol), Hunig's base (300 μL, 1.72 mmol) and n-butanol (5 mL) was heated to 138° C. for 30 min. The solvent was removed on a rotary evaporator to give the intermediate acid as a black oil that was treated with 2,6-dimethylaniline (88 mg, 0.73 mmol), Hunig's base (100 μL, 0.57 mmol) and HATU (137 mg, 0.36 mmol) in DMF (1 mL) The mixture was heated to 60° C. overnight. The reaction was cooled to rt and purified by preparative reverse phase HPLC to give N-(2,6-dimethylphenyl)-4-[(4-phenylpyrido[2,3-d]pyrimidin-2-yl)amino]benzamide (29.6 mg, 18%) as a yellow solid. 1H NMR (400 MHz, CD3OD): δ 8.96 (d, 1H), 8.61-8.58 (m, 1H), 8.20 (d, 2H), 8.05 (d, 2H), 7.86-7.84 (m, 2H), 7.67-7.61 (m, 3H), 7.51 (dd, 1H), 7.13 (s, 3H), 2.27 (s, 6H). MS (EI) for C28H23N5O: 446.0 (MH+).

reactant | 2-chloro-4-phenylpyrido[2,3-d]pyrimidine | 0.965 mmol, 233 mg | ClC=1N=C(C2=C(N1)N=CC=C2)C2=CC=CC=C2 | C13H8ClN3
reactant | 4-aminobenzoic acid | 0.965 mmol, 133 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | Hunig's base | 1.72 mmol, 300 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,6-dimethylaniline | 0.73 mmol, 88 mg | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | Hunig's base | 0.57 mmol, 100 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.36 mmol, 137 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | n-butanol | 5 mL | C(CCC)O | C4H10O
product | N-(2,6-dimethylphenyl)-4-[(4-phenylpyrido[2,3-d]pyrimidin-2-yl)amino]benzamide | 29.6 mg, 18% | CC1=C(C(=CC=C1)C)NC(C1=CC=C(C=C1)NC=1N=C(C2=C(N1)N=CC=C2)C2=CC=CC=C2)=O | C28H23N5O
